US07935688B2
(4) Synthesis of [4′-(1-ethyl-1-{4-[2-(1-hydroxy-cycloheptyl)-(E)-vinyl]-3-methyl-phenyl}-propyl)-2′-methyl-biphenyl-4-yl]-acetic Acid
A 2 N sodium hydroxide aqueous solution (0.50 mL, 1.0 mmol) was added to a solution of the mixture containing [4′-(1-ethyl-1-{4-[2-(1-hydroxy-cycloheptyl)-(E)-vinyl]-3-methyl-phenyl}-propyl)-2′-methyl-biphenyl-4-yl]-acetic acid methyl ester (14.0 mg) in methanol (1.0 mL), and the mixture was stirred with microwave heating at 100° C. for five minutes. An ammonium chloride solution was added to the reaction mixture, followed by extraction with ethyl acetate and washing with brine. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography (ethyl acetate:methanol=100:0 to 90:10) to give the target compound as a colorless oil (8.0 mg, 19% in two steps).

reactant | sodium hydroxide | 1.0 mmol, 2 N, 0.50 mL | [OH-].[Na+]
reactant | [4′-(1-ethyl-1-{4-[2-(1-hydroxy-cycloheptyl)-(E)-vinyl]-3-methyl-phenyl}-propyl)-2′-methyl-biphenyl-4-yl]-acetic acid methyl ester | 14.0 mg | COC(CC1=CC=C(C=C1)C1=C(C=C(C=C1)C(CC)(C1=CC(=C(C=C1)\C=C\C1(CCCCCC1)O)C)CC)C)=O | C37H46O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 1.0 mL | CO | CH4O
product | [4′-(1-ethyl-1-{4-[2-(1-hydroxy-cycloheptyl)-(E)-vinyl]-3-methyl-phenyl}-propyl)-2′-methyl-biphenyl-4-yl]-acetic Acid | 8.0 mg, 19% | C(C)C(CC)(C1=CC(=C(C=C1)\C=C\C1(CCCCCC1)O)C)C1=CC(=C(C=C1)C1=CC=C(C=C1)CC(=O)O)C | C36H44O3
